US06372752B1
Synthesis of N-[2-(4-Chlorophenyl)-ethyl]-2-(2-fluoro-phenyl)acetamide (compound 1)
2-Fluorophenylacetic acid (17 mg, 0.11 mmole) and 4-chlorophenethylamine (15 mg, 0.1 mmole) were dissolved in 5 ml dichloromethane. To this was added catalytic 4-dimethylaminopyridine (DMAP) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI, 33 mg, 0.11 mmole). The resulting solution was stirred at room temperature overnight. The reaction was then worked up by washing sequentially with 1N HCl, saturated sodium bicarbonate, and saturated sodium chloride. The compound was then purified by flash chromatography on silica gel (40:1 CHCl3/MeOH). 1H NMR (300 Mhz, CDCl3) δ 7.31-6.92 (m, 8H), 5.48 (bs, 1H), 3.51 (s, 2H), 3.42 (m, 2H), 2.70 (m, 2H).

reactant | 2-Fluorophenylacetic acid | 0.11 mmole, 17 mg | FC1=C(C=CC=C1)CC(=O)O | C8H7FO2
reactant | 4-chlorophenethylamine | 0.1 mmole, 15 mg | ClC1=CC=C(CCN)C=C1 | C8H10ClN
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.11 mmole, 33 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[2-(4-Chlorophenyl)-ethyl]-2-(2-fluoro-phenyl)acetamide | ClC1=CC=C(C=C1)CCNC(CC1=C(C=CC=C1)F)=O | C16H15ClFNO
